.subckt D_LATCH Q nQ D CLK nCLK VDD VSS
* delay input
 R1 D1 D 330
 C1 D1 VSS 100p
 XNOT1.N1 D1 VSS NOT1.intN RV523_NMOS
 XNOT1.N2 CLK NOT1.intN nQ RV523_NMOS
 XNOT1.P1 D1 VDD NOT1.intP RV523_PMOS
 XNOT1.P2 nCLK NOT1.intP nQ RV523_PMOS
 XNOT2.N1 nQ VSS Q RV523_NMOS
 XNOT2.P1 nQ VDD Q RV523_PMOS
 XNOT3.N1 Q VSS NOT3.intN RV523_NMOS
 XNOT3.N2 nCLK NOT3.intN nQ RV523_NMOS
 XNOT3.P1 Q VDD NOT3.intP RV523_PMOS
 XNOT3.P2 CLK NOT3.intP nQ RV523_PMOS
.ends
